*******************************************************************************
*****************************************************************
* NXP BUK9Y27_40B
*
* Polarity N-Channel
* Ratings 40V/2.70E-02OHMS/15A
*
* Date Created Tue Feb  9 05:20:17 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y27_40B DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 800000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0174699196993981 TC=0.00790818045168041,-1.24863729672994e-05
RBD 9 4 0.00359101263829528 TC=0.00790818045168041,-1.24863729672994e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 750000000000
CGS 2 6 7.42e-10
RG 1 2 1.73060161358437

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	1030
+ -8	1030
+ -5	1030
+ -4	1030
+ -3	1030
+ -2	1114
+ -1	929
+ -0.5	749
+ -0.2	638
+ -0.1	598
+ 0	278
+ 0.1	483
+ 0.2	438
+ 0.5	316
+ 1	221
+ 2	166
+ 5	119
+ 10	95
+ 12	95
+ 20	87
+ 25	82



.MODEL MINT NMOS(Vto=1.53486616566348 Kp=4.6819e+01 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44.80 Ibv=2.50E-04 Rs=1E-6 Is=2.1777130372913e-13
+ N=1 M=0.1 VJ=0.5 Fc=0.5 Cjo=0 Tt=1.5e-08)

.ENDS



*******************************************************************************
